US04602099
A mixture of 57.2 (0.300 mole) of 5-bromo-2-furoic acid, 121.0 g (0.45 mole) of cis-9-pentadecenol, 18.0 g (0.750 mole) of sodium hydride and 2 liters of p-xylene are heated to reflux for 48 hours. The mixture is allowed to cool, then is acidified with acetic acid and diluted with 2 liters of water. The organic layer is separated, dried, evaporated to dryness, and the residue recrystallized from hexane to give 5-(cis-9-pentadecenyloxy)-2-furoic acid.

reactant | 5-bromo-2-furoic acid | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | cis-9-pentadecenol | 0.45 mole, 121.0 g | C(CCCCCCC\C=C/CCCCC)O | C15H30O
reactant | sodium hydride | 0.750 mole, 18.0 g | [H-].[Na+]
reactant | p-xylene | 2 liters | CC=1C=CC(=CC1)C | C8H10
solvent | water | 2 liters | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(cis-9-pentadecenyloxy)-2-furoic acid | C(CCCCCCC\C=C/CCCCC)OC1=CC=C(O1)C(=O)O | C20H32O4
